US07858621B2
To a suspension of 2-chloro-6-trifluoromethyl-nicotinic acid (200 mg, 0.88 mmol) and N,O-dimethylhydroxylamine hydrochloride (95 mg, 0.97 mmol) in CH2Cl2 (3 mL) was added N-methylmorpholine (0.106 ml, 0.97 mmol). The mixture was stirred for 5 minutes, to which was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (185 mg, 0.97 mmol). The mixture was stirred for 3 hours at room temperature, and then diluted with EtOAc and water. The organic layer was washed with 1N HCl, saturated sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The product was vacuum dried to yield the 2-chloro-N-methoxy-N-methyl-6-trifluoromethyl-nicotinamide (220 mg, 92%).

reactant | 2-chloro-6-trifluoromethyl-nicotinic acid | 0.88 mmol, 200 mg | ClC1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C7H3ClF3NO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.97 mmol, 95 mg | Cl.CNOC
reactant | N-methylmorpholine | 0.97 mmol, 0.106 ml | CN1CCOCC1 | C5H11NO
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.97 mmol, 185 mg | Cl.CN(CCCN=C=NCC)C
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 2-chloro-N-methoxy-N-methyl-6-trifluoromethyl-nicotinamide | 220 mg, 92% | ClC1=C(C(=O)N(C)OC)C=CC(=N1)C(F)(F)F | C9H8ClF3N2O2
